US04837366
In a glass autoclave, a mixture of 150 g (4.69 mol) of methanol, 150 g of 1,4-dioxane, 3.0 g (0.017 mol) of PdCl2, 5.8 g (0.034 mol) of CuCl2.2H2O and 4.0 g of Al(OH)3 was kept heated at 60° C. Stirring the mixture, 3,3,3-trifluoropropene was continuously introduced into the autoclave so as to keep the gas pressure in the autoclave at 8 kg/cm2. This operation was continued for 10 hr. As the result 245.2 g (1.552 mol) of 1,1-dimethoxy-3,3,3-trifluoropropane was obtained. In this case selectivity to this acetal was 60.2%, and the remaining part of the reaction product was 3,3,3-trifluoropropanal.

reactant | methanol | 4.69 mol, 150 g | CO | CH4O
reactant | 3,3,3-trifluoropropene | FC(C=C)(F)F | C3H3F3
reactant | 1,4-dioxane | 150 g | O1CCOCC1 | C4H8O2
catalyst | PdCl2 | 0.017 mol, 3.0 g | Cl[Pd]Cl
catalyst | Al(OH)3 | 4.0 g | [Al](O)(O)O
product | 1,1-dimethoxy-3,3,3-trifluoropropane | 1.552 mol, 245.2 g | COC(CC(F)(F)F)OC | C5H9F3O2
